US05405851
A solution of diethyl 2-ethoxycarbonyl-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate (2.5 g, 5.9 mmol) in ethanol:1N NaOH (2:1, 105 ml) was stirred 20 hours at room temperature and then acidified to pH 1.5 with concentrated HCl and concentrated in vacuo. The residue was dissolved in diglyme (50 ml) and the solution stirred at reflux for 20 minutes and then concentrated in vacuo. The residue was then dissolved in ethanol (50 ml). HCl gas was bubbled into the solution for 30 seconds, and the solution was stirred at room temperature over the weekend and then concentrated in vacuo. The product was taken up in diethyl ether (100 ml), washed with saturated sodium bicarbonate solution (35 ml), dried (MgSO4), and concentrated in vacuo. Purification by chromatography on silica gel eluting with ethyl acetate:hexane (1:4) gave diethyl (RS)-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate (1.49 g) as an oil 1H NMR (DMSO-d6, 200 MHz) δ: 1.13 (t, J=7 Hz, 3H, CH3), 1.19 (t, J=7 Hz, 3H, CH3), 1.74-1.93 (m, 2H, CH2), 2.35-2.45 (m, 2H, CH2CO2), 2.82-3.00 (m, 1H, CH), 3.24-3.67 (m, 2H, COCH2), 4.03 (q, J=7 Hz, 2H, ester CH2), 4.04 (q, J=7 Hz, 2H, ester CH2), 8.20 (d, J=9 Hz, 2H, Ar), 8.33 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C17H21NO7.1/4H2O: C, 57.38; H, 6.09; N, 3.94. Found: C, 57.35; H, 6.11; N, 3.89.

reactant | diethyl 2-ethoxycarbonyl-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate | 5.9 mmol, 2.5 g | C(C)OC(=O)C(C(=O)OCC)(CCC(=O)OCC)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H25NO9
reactant | NaOH | 1N, 105 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | diethyl (RS)-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate | 1.49 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(C(=O)OCC)CCC(=O)OCC)=O | C17H21NO7
